US06686348B2
Step A: 4-{[2-(4-Aminophenyl)-1-benzofuran-5-yl]sulphonyl}-2,2-dimethyl-3-thiomorpholinecarboxylic acid tert-butyl(dimethyl)silyl Ester
58.7 mmol of 2,2-dimethyl-3-thiomorpholinecarboxylic acid tert-butyl(dimethyl)silyl ester are dissolved in 500 ml of anhydrous dichloromethane. At −20° C., there are added 16 ml of N-methylmorpholine, followed by 57.5 mmol of 2-(4-pyridyl)-1-benzofuran-5-sulphonyl chloride described in Preparation C. The whole is stirred for 48 hours at room temperature and then poured into 300 ml of water. After decanting, washing with water, drying and evaporation, the expected product is obtained in the form of an oil.

reactant | 2,2-dimethyl-3-thiomorpholinecarboxylic acid tert-butyl(dimethyl)silyl ester | 58.7 mmol | [Si](C)(C)(C(C)(C)C)OC(=O)C1NCCSC1(C)C | C13H27NO2SSi
reactant | N-methylmorpholine | 16 ml | CN1CCOCC1 | C5H11NO
reactant | 2-(4-pyridyl)-1-benzofuran-5-sulphonyl chloride | 57.5 mmol | N1=CC=C(C=C1)C=1OC2=C(C1)C=C(C=C2)S(=O)(=O)Cl | C13H8ClNO3S
reactant | water | 300 ml | O | H2O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 4-{[2-(4-Aminophenyl)-1-benzofuran-5-yl]sulphonyl}-2,2-dimethyl-3-thiomorpholinecarboxylic acid tert-butyl(dimethyl)silyl Ester | [Si](C)(C)(C(C)(C)C)OC(=O)C1N(CCSC1(C)C)S(=O)(=O)C=1C=CC2=C(C=C(O2)C2=CC=C(C=C2)N)C1 | C27H36N2O5S2Si
